US07173133B2
cis-rac-1-[2-(4-Fluoro-phenyl)-cyclohexyl]-4-[1-(4-fluoro-phenyl)-2-nitro-ethyl]-piperidine-4-carboxylic acid ethyl ester
As described for example 1b, cis-rac-1-[2-(4-fluoro-phenyl)-cyclohexyl]-piperidine-4-carboxylic acid ethyl ester (1.0 g, 3 mmol) (using 4-fluoro-trans-beta-nitrostyrene instead of trans-beta-nitrostyrene) was converted to the title compound (1.2 g, 77%) which was obtained as a white solid. MS: m/e=501.4 (M+H).

reactant | cis-rac-1-[2-(4-fluoro-phenyl)-cyclohexyl]-piperidine-4-carboxylic acid ethyl ester | 3 mmol, 1.0 g | C(C)OC(=O)C1CCN(CC1)[C@H]1[C@H](CCCC1)C1=CC=C(C=C1)F | C20H28FNO2
reactant | 4-fluoro-trans-beta-nitrostyrene | FC1=CC=C(/C=C/[N+](=O)[O-])C=C1 | C8H6FNO2
product | cis-rac-1-[2-(4-Fluoro-phenyl)-cyclohexyl]-4-[1-(4-fluoro-phenyl)-2-nitro-ethyl]-piperidine-4-carboxylic acid ethyl ester | 1.2 g, 77% | C(C)OC(=O)C1(CCN(CC1)[C@H]1[C@H](CCCC1)C1=CC=C(C=C1)F)C(C[N+](=O)[O-])C1=CC=C(C=C1)F | C28H34F2N2O4
